US08119805B2
Stage (iii): (1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methyl methanesulfonate
Sodium hydride (0.346 g, 8.679 mmol, 60%), washed with hexane and dried with an inert gas, was initially introduced into N,N-dimethylformamide (10 ml) under an inert gas, (1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methanol (1.36 g, 4.34 mmol) was added and the mixture was then stirred at room temperature for 30 min. Triethylamine (1.8 ml, 13.019 mmol) was added, the reaction mixture was cooled with ice-water, and methanesulfonyl chloride (0.838 ml, 10.849 mmol) in N,N-dimethylformamide (10 ml) was slowly added dropwise. After stirring at room temperature for 1 h, 5 ml of water were added and the solvent was removed in vacuo. The residue was taken up in saturated sodium bicarbonate solution (20 ml) and ethyl acetate (50 ml), the phases were separated and the aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic phases were washed with saturated sodium chloride solution (40 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with diethyl ether/hexane/methylene chloride (1:1:1). Yield: 1.66 g (97%)

reactant | Sodium hydride | 8.679 mmol, 0.346 g | [H-].[Na+]
reactant | (1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methanol | 4.34 mmol, 1.36 g | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)CO)C | C15H23NO4S
reactant | Triethylamine | 13.019 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10.849 mmol, 0.838 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | (1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methyl methanesulfonate | CS(=O)(=O)OCC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C16H25NO6S2
